US05554620
A mixture of 5.5 g of p-trifluoromethyl-benzyl alcohol in 50 mL of 48% HBr was heated on a steam-bath for 6 h with stirring, and cooled. Water (100 mL) was added to the above mixture, and the aqueous layer was extracted with ether, and the organic layer was concentrated in vacuo to afford 4.8 g of p-trifluoromethyl-benzyl bromide.

reactant | p-trifluoromethyl-benzyl alcohol | 5.5 g | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | Water | 100 mL | O | H2O
reactant | HBr | 50 mL | Br | BrH
product | p-trifluoromethyl-benzyl bromide | 4.8 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
